US06414149B1
Step B: (R)-1-[4-(4-Oxazolo[5,4-b]pyridin-2-yl-piperazin-1-yl)-pyrimidin-2-yl]-ethyl butyrate
To a solution of (R)-1-(4-chloro-pyrimidin-2-yl)-ethyl butyrate (prepared according to the method of Preparation Seven, 6.8 g, 29.9 mmol) and triethylamine (12.5 mL, 89.6 mmol) in isopropanol (100 mL) was added 2-(1-piperazinyl)oxazolo[5,4-b]pyridine (prepared according to the method of Example 9, Step A, 6.1 g, 29.9 mmol). This mixture was stirred at reflux overnight, cooled to room temperature, and evaporated. The residue was diluted with saturated aqueous sodium bicarbonate and extracted with chloroform (3×). The combined organic extracts were dried over sodium sulfate, filtered, evaporated, and purified by flash column chromatography (1.5→2% methanol/chloroform) to give 11.1 g (94%) of the title compound of Example 9, Step B as a yellow oil which solidified upon standing. 1H NMR (CDCl3, 250 MHz) δ8.28 (d, 1H), 7.97 (dd, 1H), 7.60 (dd, 1H), 7.25 (dd, 1H), 6.44 (d, 1H), 5.70 (q, 1H), 3.85 (app s, 8H), 2.42 (t, 2H), 1.78-1.61 (c, 2H), 1.60 (d, 3H), 0.98 (t, 3H); MS (APCI) 397 (MH+).

reactant | (R)-1-(4-chloro-pyrimidin-2-yl)-ethyl butyrate | C(CCC)(=O)O[C@H](C)C1=NC=CC(=N1)Cl | C10H13ClN2O2
reactant | triethylamine | 89.6 mmol, 12.5 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(1-piperazinyl)oxazolo[5,4-b]pyridine | N1(CCNCC1)C=1OC2=NC=CC=C2N1 | C10H12N4O
solvent | isopropanol | 100 mL | C(C)(C)O | C3H8O
product | (R)-1-[4-(4-Oxazolo[5,4-b]pyridin-2-yl-piperazin-1-yl)-pyrimidin-2-yl]-ethyl butyrate | 11.1 g, 94% | C(CCC)(=O)O[C@H](C)C1=NC=CC(=N1)N1CCN(CC1)C=1OC2=NC=CC=C2N1 | C20H24N6O3
